US08633175B2
Step 1: 4′-cyano-2′-(trifluoromethyl)-3-biphenylcarboxamide
The title compound was synthesized from 3-(aminocarbonyl)phenyl boronic acid and 4-iodo-3-(trifluoromethyl)benzonitrile (I-IX-6) according to the procedure described for Ex IX-10, using Pd(PPh3)4 catalyst and PhMe/EtOH (4:1) as organic cosolvents. LC/MS (method A) 2.18 min, m/z 291 (M+H).

reactant | 3-(aminocarbonyl)phenyl boronic acid | NC(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | 4-iodo-3-(trifluoromethyl)benzonitrile | IC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | PhMe EtOH | C1(=CC=CC=C1)C.CCO
product | 4′-cyano-2′-(trifluoromethyl)-3-biphenylcarboxamide | C(#N)C1=CC(=C(C=C1)C1=CC(=CC=C1)C(=O)N)C(F)(F)F | C15H9F3N2O
